US04564684
According to the method of Example 1, 3-butyramido-1-(3-trifluoromethylphenyl)-2-pyrazoline was reduced with lithium aluminium hydride to produce 3-butylamino-1-(3-trifluoromethylphenyl)-2-pyrazoline which was a gum (yield 2.4 g) and was recrystallized as the hydrochloride m.p. 173.4° (yield 1.65 g).

reactant | 3-butyramido-1-(3-trifluoromethylphenyl)-2-pyrazoline | C(CCC)(=O)NC1=NN(CC1)C1=CC(=CC=C1)C(F)(F)F | C14H16F3N3O
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 3-butylamino-1-(3-trifluoromethylphenyl)-2-pyrazoline | C(CCC)NC1=NN(CC1)C1=CC(=CC=C1)C(F)(F)F | C14H18F3N3
